### PR TITLE
[Merged by Bors] - feat(GroupTheory/ArchimedeanDensely): `LinearOrderedAddCommGroup.discrete_or_denselyOrdered`

### PR DESCRIPTION
**Pull request by pechersky**
Classify linearly ordered archimedean additive groups, either they are discrete (order isomorphic to Int) or densely ordered.

Also add some simple lemmas about the closure subgroup.

---

- [x] depends on: #16165 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Archimedean.lean [hunk 1]
```diff
@@ -90,8 +156,113 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
...
+
+lemma AddSubgroup.closure_singleton_int_one_eq_top : closure ({1} : Set ℤ) = ⊤ := by
+  rw [eq_comm]
+  apply cyclic_of_min
+  refine ⟨?_, ?_⟩
+  · simp
+  · intro x
+    simp only [mem_top, true_and, mem_setOf_eq]
+    exact id
+
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:229]:
```suggestion
```

File: Mathlib/GroupTheory/Archimedean.lean [hunk 2]
```diff
@@ -90,8 +156,113 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
...
+      simp only [mem_closure_singleton, mem_setOf_eq, and_imp, forall_exists_index]
+      rintro k rfl hk
+      rw [← one_zsmul b, ← mul_zsmul, mul_one, zsmul_le_zsmul_iff h, ← zero_add 1,
+          ← Int.lt_iff_add_one_le]
+      contrapose! hk
+      rw [← Left.nonneg_neg_iff, ← neg_zsmul]
+      exact zsmul_nonneg ha (by simp [hk])
+
+lemma AddSubgroup.mem_closure_singleton_iff_existsUnique_zsmul {a b : G} (ha : a ≠ 0) :
+    (b ∈ closure {a}) ↔ ∃! k : ℤ, k • a = b := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:194]: This statement is a bit weird. Surely this `ExistsUnique` RHS is hard to prove?

File: Mathlib/GroupTheory/Archimedean.lean [hunk 3]
```diff
@@ -90,8 +156,113 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
   · exact ⟨0, closure_singleton_zero.symm⟩
   · exact (exists_isLeast_pos hbot h₀ hd).imp fun _ => cyclic_of_min
 
+lemma AddSubgroup.isLeast_of_closure_iff_eq_max {a b : G} :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:159]:
```suggestion
lemma AddSubgroup.isLeast_closure_iff_eq_max {a b : G} :
```

File: Mathlib/GroupTheory/Archimedean.lean [hunk 4]
```diff
@@ -30,6 +30,72 @@ subgroups of `ℝ`.
 -/
 
 open Set
+
+-- no earlier file imports necessary
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:34]: ... by which you mean
```suggestion
-- no earlier file imports the necessary requirements
```

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 5]
```diff
@@ -1042,6 +1047,32 @@ theorem mem_sSup_of_directedOn {K : Set (Subgroup G)} (Kne : K.Nonempty) (hK : D
...
+  ext
+  simp [mem_closure, preimage_inv_coe]
+
+@[to_additive]
+lemma closure_preimage_inv : closure ((·⁻¹) ⁻¹' k) = closure k := by
+  rw [← closure_image_inv]
+  simp only [inv_surjective, image_preimage_eq]
+
+@[to_additive (attr := simp)]
+lemma closure_singleton_inv (x : G) : closure ({x⁻¹}) = closure {x} := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean:1072]:
```suggestion
lemma closure_singleton_inv (x : G) : closure {x⁻¹} = closure {x} := by
```

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 6]
```diff
@@ -1042,6 +1047,32 @@ theorem mem_sSup_of_directedOn {K : Set (Subgroup G)} (Kne : K.Nonempty) (hK : D
   simp only [sSup_eq_iSup', mem_iSup_of_directed hK.directed_val, SetCoe.exists, Subtype.coe_mk,
     exists_prop]
 
+-- non-pointwise lemma versions
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean:1050]: Why do you not use the pointwise operations? This seems like unnecessary code duplication

File: Mathlib/GroupTheory/Archimedean.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean:194]: It's the stronger version of mem_closure_singleton when the group is Archimedean. Would you prefer the mp version instead of iff?

Comment (YaelDillies) [reply Mathlib/GroupTheory/Archimedean.lean:194]: @pechersky, was https://github.com/leanprover-community/mathlib4/pull/15659#discussion_r1730314177 meant for here?

Comment (YaelDillies) [reply Mathlib/GroupTheory/Archimedean.lean:194]: I guess it's fine to have it like that even if you're only planning on using the `mp` of it, but please then reference the more commonly useful lemma in the docstring of this one

File: Mathlib/Algebra/Group/Subgroup/Basic.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Subgroup/Basic.lean:1049]: Why do you care about being earlier than the `Pointwise` file? It's supposed to be a pretty basic file

File: Mathlib/GroupTheory/Archimedean.lean [hunk 7]
```diff
@@ -90,8 +156,113 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
...
+  intro a b hab
+  have hab' : f.val (e' (e a)) < f.val (e' (e b)) := by
+    rw [f.prop.lt_iff_lt]
+    exact hab
+  exact hab'
+
+/-- Any linearly ordered archimedean additive group is either is isomorphic (and order-isomorphic)
+to the integers, or is densely ordered. -/
+lemma LinearOrderedAddCommGroup.discrete_or_denselyOrdered :
+    (∃ f : G ≃+ ℤ, StrictMono f) ∨ DenselyOrdered G := by
```
[the remark this answers is not in the document]
Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean:258]: Wait for https://github.com/leanprover-community/mathlib4/pull/16165 or leave a TODO?

File: Mathlib/GroupTheory/Archimedean.lean [hunk 8]
```diff
@@ -90,8 +157,115 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
...
+  · have := cyclic_of_min h
+    have ha : a ∈ closure ({b} : Set G) := by
+      simp [← this]
+    rw [mem_closure_singleton] at ha
+    obtain ⟨n, rfl⟩ := ha
+    have := h.left
+    simp only [mem_closure_singleton, mem_setOf_eq, ← mul_zsmul] at this
+    obtain ⟨m, hm⟩ := this.left
+    have key : m * n = 1 := by
+      rw [← (zsmul_strictMono_left this.right).injective.eq_iff, hm, one_zsmul]
```
[the remark this answers is not in the document]
Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean:172]: reverted, `zsmul_right_inj` cancels the scalar multiplier, not the ring element being multiplied. Here, we need to go to `(m * n) \smul b = \b`.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/Archimedean.lean:172]: Can you then make it a lemma called `zsmul_inj_left`?

File: Mathlib/GroupTheory/Archimedean.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/Archimedean.lean:258]: Probably wait since #16165 looks straightforward

File: Mathlib/GroupTheory/Archimedean.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean:202]: Added

File: Mathlib/GroupTheory/Archimedean.lean [hunk 9]
```diff
@@ -90,8 +187,88 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
...
+      rw [← Left.nonneg_neg_iff, ← neg_zsmul]
+      exact zsmul_nonneg ha (by simp [hk])
+
 /-- Every subgroup of `ℤ` is cyclic. -/
 theorem Int.subgroup_cyclic (H : AddSubgroup ℤ) : ∃ a, H = AddSubgroup.closure {a} :=
   have : Ioo (0 : ℤ) 1 = ∅ := eq_empty_of_forall_not_mem fun m hm =>
     hm.1.not_le (lt_add_one_iff.1 hm.2)
   AddSubgroup.cyclic_of_isolated_zero one_pos <| by simp [this]
+
+lemma AddSubgroup.closure_singleton_int_one_eq_top : closure ({1} : Set ℤ) = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:230]: Surely this should go earlier?

Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean:230]: Where would this go?

Comment (YaelDillies) [reply Mathlib/GroupTheory/Archimedean.lean:230]: Unsure

Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean]: Moved and golfed

File: Mathlib/GroupTheory/Archimedean.lean [hunk 10]
```diff
@@ -90,8 +187,79 @@ theorem AddSubgroup.cyclic_of_isolated_zero {H : AddSubgroup G} {a : G} (h₀ :
...
+     (AddEquiv.strictMono_subsemigroupCongr _).le_iff_le⟩
+  let g : (⊤ : AddSubgroup ℤ) ≃+o ℤ := ⟨AddSubsemigroup.topEquiv,
+    (AddSubsemigroup.strictMono_topEquiv).le_iff_le⟩
+  let g' : AddSubgroup.closure ({1} : Set ℤ) ≃+o (⊤ : AddSubgroup ℤ) :=
+    ⟨(.subsemigroupCongr (by simp [AddSubgroup.closure_singleton_int_one_eq_top])),
+     (AddEquiv.strictMono_subsemigroupCongr _).le_iff_le⟩
+  let f := closure_equiv_closure x (1 : ℤ) (by simp [h.left.ne'])
+  exact ((((e.trans e').trans f).trans g').trans g : G ≃+o ℤ)
+
+/-- Any linearly ordered archimedean additive group is either is isomorphic (and order-isomorphic)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:249]:
```suggestion
/-- Any linearly ordered archimedean additive group either is isomorphic (and order-isomorphic)
```

File: Mathlib/GroupTheory/Archimedean.lean [hunk 11]
```diff
@@ -30,6 +32,101 @@ subgroups of `ℝ`.
...
+          ← (zpow_right_strictMono ypos).injective.eq_iff, (A ⟨_, D a⟩).choose_spec]
+    · intro a
+      generalize_proofs A B C D
+      rw [Subtype.ext_iff, ← (C a).choose_spec, (zpow_right_strictMono ypos).injective.eq_iff,
+          ← (zpow_right_strictMono xpos).injective.eq_iff, (A ⟨_, D a⟩).choose_spec]
+    · intro a b
+      generalize_proofs A B C D E F
+      simp only [Submonoid.coe_mul, coe_toSubmonoid, Submonoid.mk_mul_mk, Subtype.mk.injEq]
+      rw [← zpow_add, (zpow_right_strictMono ypos).injective.eq_iff,
+          ← (zpow_right_strictMono xpos).injective.eq_iff, zpow_add,
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:121]:
```suggestion
      rw [← zpow_add, zpow_right_inj ypos, ← zpow_right_inj xpos, zpow_add,
```
and above

File: Mathlib/GroupTheory/Archimedean.lean [hunk 12]
```diff
@@ -30,6 +32,101 @@ subgroups of `ℝ`.
...
+          (A a).choose_spec, (A b).choose_spec, (A (a * b)).choose_spec]
+      simp
+    · intro a b
+      simp only [MulEquiv.coe_mk, Equiv.coe_fn_mk, Subtype.mk_le_mk]
+      generalize_proofs A B C D
+      simp [(zpow_right_strictMono ypos).le_iff_le, ← (zpow_right_strictMono xpos).le_iff_le,
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Archimedean.lean:127]:
```suggestion
      simp [zpow_le_zpow_iff ypos, ← zpow_le_zpow_iff xpos,
```

File: Mathlib/GroupTheory/Archimedean.lean (hunk 11 above)
Comment (pechersky) [reply Mathlib/GroupTheory/Archimedean.lean:121]: Sorry, I really thought I fixed this! Must have gotten lost in the merge

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 13]
```diff
@@ -113,6 +113,11 @@ theorem closure_induction_right {p : (x : G) → x ∈ closure s → Prop} (one
 theorem closure_inv (s : Set G) : closure s⁻¹ = closure s := by
   simp only [← toSubmonoid_eq, closure_toSubmonoid, inv_inv, union_comm]
 
+@[to_additive (attr := simp)]
+lemma closure_singleton_inv (x : G) : closure {x⁻¹} = closure {x} := by
+  rw [← closure_inv]
+  simp
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean:119]:
```suggestion
  rw [← Set.inv_singleton, closure_inv]
```

**Review by YaelDillies — COMMENTED** [review]
Rest looks good

maintainer merge

**Comment by urkud** [comment]
This PR adds >150 imports to the file. Could you please move new content to a new file?

**Comment by pechersky** [comment]
I had it working without an import change (by adding some lemmas to Subgroup.Basic). Yael suggested I use the Pointwise lemmas, which is where the additional imports came from. Then more came from using the new `OrderMonoidIso` instead of an unbundled MulEquiv with a StrictMono subtype. 

What would you like the name of the new file to be?

**Comment by YaelDillies** [comment]
I think we should make sure pointwise stuff is not a heavy import. I'll try something tomorrow

**Comment by pechersky** [comment]
In the meantime, I've made a new file, since I imagine deconvoluting Pointwise imports will be difficult.

**Comment by YaelDillies** [comment]
It was actually pretty easy. I have opened #16442

**Comment by jcommelin** [comment]
I just kicked #16442 on the queue. Please merge master after it lands.

bors d+

**Comment by pechersky** [comment]
I tried importing the result of #16442 but it still led to 150 more imports. So I kept the new file.
